US07074800B1
A mixture of 4-chloro-6-methoxy-7-(3-piperidinopropoxy)quinazoline (380 mg, 1.13 mmol), (prepared as described for the starting material in Example 67), potassium carbonate (469 mg, 3.4 mmol), 4-bromo-5-hydroxyindole (240 mg, 1.13 mmol) and DMA (4.0 ml) were stirred at 90° C. for 3 hours and allowed to cool to ambient temperature. The reaction mixture was filtered and the filtrate evaporated under vacuum. The residue was purified by column chromatography eluting with dichloromethane/methanolic ammonia (7M) (95/5) to give an oil. This oil was further purified by column chromatography eluting with dichloromethane/methanol (60/40) to give 4-(4-bromoindol-5-yloxy)-6-methoxy-7-(3-piperidinopropoxy)quinazoline (256 mg, 44%).

reactant | 4-chloro-6-methoxy-7-(3-piperidinopropoxy)quinazoline | 1.13 mmol, 380 mg | ClC1=NC=NC2=CC(=C(C=C12)OC)OCCCN1CCCCC1 | C17H22ClN3O2
reactant | potassium carbonate | 3.4 mmol, 469 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 4-bromo-5-hydroxyindole | 1.13 mmol, 240 mg | BrC1=C2C=CNC2=CC=C1O | C8H6BrNO
solvent | DMA | 4.0 ml | CC(=O)N(C)C | C4H9NO
product | 4-(4-bromoindol-5-yloxy)-6-methoxy-7-(3-piperidinopropoxy)quinazoline | 256 mg, 44% | BrC1=C2C=CNC2=CC=C1OC1=NC=NC2=CC(=C(C=C12)OC)OCCCN1CCCCC1 | C25H27BrN4O3
